US04726941
Example 7. Stearoylcyanamide (7)
Stearoyl chloride (3.03 g, 0.010 mol) in 50 ml of freshly distilled dry THF was added drop-wise to a suspension of sodium cyanamide (1.92 g, 0.030 mol) in 100 ml of freshly distilled dry THF with vigorous stirring. The reaction was allowed to proceed at 25° C for 63 hours. The solids which formed were collected by filtration and the solid cake was suspended in 200 ml of distilled water. The resulting soapy suspension (pH 10.5) was acidified to pH 1.5 with 10% HCl, filtered, and air-dried to give 2.85 g (92.4% yield) of crude 7. This was dissolved in THF and the solution decolorized with activated charcoal. The filtrate was concentrated until the solution became turbid. Addition of petroleum ether gave 2.29 g (crop 1) of white waxy 7. The filtrate was concentrated and petroleum ether added to give 0.28 g (crop 2) of additional product giving a total yield of 83.3%, mp 74°-75 ° C. TLC: Rf =0.69 in EtOAc/petroleum ether/AcOH (50:100:1), detected by UV quenching (weak) and no color reaction with ferricyanide spray reagent; IR (Nujol, cm-1) 3210 (NH), 2250 (C≡N), 1735 (C=O); NMR (Silanor C, δ from TMS) 2.3-2.6 (t, --CH2 --CH2 --C=O), 1.0-1.8 (fused s, (CH2)14), 0.8-0.9 (t, CH3 --CH2 --); Anal. Calcd for C19H36N2O: C, 73.97; H, 11.76; N, 9.08. Found: C, 73.88; H, 11.50; N, 9.09.

reactant | Stearoyl chloride | 0.010 mol, 3.03 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | sodium cyanamide | 0.030 mol, 1.92 g | N#CN.[Na]
reactant | charcoal | C | CH4
solvent | THF | C1CCOC1 | C4H8O
product | Stearoylcyanamide | 92.4% yield | C(CCCCCCCCCCCCCCCCC)(=O)NC#N | C19H36N2O
